US07071182B2
2-(4-hydroxy-phenyl)-N-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-yl]-acetamide
A mixture of 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine (0.620 g, 2.69 mmol), (4-hydroxy-phenyl)-acetic acid (0.242 g, 5.15 mmol), HATU (1.23 g, 3.23 mmol) and diisopropylethylamine (0.939 mL, 5.39 mmol) in 9 mL of DMF was stirred at room temperature for 6 hours, concentrated under reduced pressure and the residue dissolved in ethyl acetate and washed with aqueous NaHCO3 (×3), brine (×2), and water. The organic layer was dried (Na2SO4), filtered, concentrated under reduced pressure and the residue purified by flash chromatography (60–90% ethyl acetate (1% triethylamine) in hexanes) to provide the title compound. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.62 (m, 4 H), 2.45 (m, 4 H), 2.83 (t, J=6.78 Hz, 2 H), 3.53 (d, J=5.76 Hz, 2 H), 4.38 (t, J=6.78 Hz, 2 H), 6.71 (m, 2 H), 7.13 (m, 3 H), 7.64 (m, 1 H), 7.94 (s, 1 H), 8.13 (m, 1 H), 9.25 (s, 1 H), 10.24 (s, 1 H); MS (ESI) m/z 365 [M+H]+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | 2.69 mmol, 0.620 g | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
reactant | (4-hydroxy-phenyl)-acetic acid | 5.15 mmol, 0.242 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | HATU | 3.23 mmol, 1.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 5.39 mmol, 0.939 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 2-(4-hydroxy-phenyl)-N-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-yl]-acetamide | OC1=CC=C(C=C1)CC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C21H24N4O2
